US06121252
Di-tert-butyl2-{[(aminomethyl)(tert-butoxy)phosphoryl]methyl}pentane-1,5-dioate (8a)
To a solution of di-tert-butyl 2-[((tert-butoxy){[benzylamino]methyl}phosphoryl)methyl]pentane-1,5-dioate (8.20 g, 16.5 mmol) in ethanol (100 mL) was added palladium on carbon (0.50 g), and the suspension was shaken under hydrogen (50 psi) for 4 days. The catalyst was removed by filtration through a pad of Celite. The filtrate was concentrated to give 6.629 g of colorless oil (99% yield): 1H NMR (CD3OD) δ 1.40-1.60 (m, 27H), 1.80-2.00 (m, 3H), 2.2-2.4 (m, 3H), 2.7-3.0 (m, 3H).

reactant | di-tert-butyl 2-[((tert-butoxy){[benzylamino]methyl}phosphoryl)methyl]pentane-1,5-dioate | 16.5 mmol, 8.20 g | C(C)(C)(C)OP(=O)(CNCC1=CC=CC=C1)CC(C(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C | C26H44NO6P
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.50 g | [Pd] | Pd
product | Di-tert-butyl2-{[(aminomethyl)(tert-butoxy)phosphoryl]methyl}pentane-1,5-dioate | 6.629 g, 99% yield | C(C)(C)(C)OC(C(CCC(=O)OC(C)(C)C)CP(=O)(OC(C)(C)C)CN)=O | C19H38NO6P
